Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"my friends told me to come in"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a healthy ___ year old F neuroscience undergraduate at 
___ domiciled with 5 roommates on campus 
with h/o depression and 1wk hospitalization for SA in ___, now 
presenting with increasing depressive symptoms for past two 
weeks since self-discontinuation of fluoxetine ("I wasn't 
motivated to take it"). A friend recommended she see a 
___ counselor which she did this afternoon; counselor 
organized ___ transport to nearest ED after conversation 
with patient in office. Patient reports feeling "stressed out" 
about finals, and "feels worried" about school in general. She 
wants to go home to ___ to be with parents.

Reports that she has not taken fluoxetine regularly since being 
prescribed 15 months ago. First semester of school (___) rarely took fluoxetine because she "didn't feel she needed 
it" and "wasn't sure why" (she was in ___ studying abroad). 

On presentation to ED tonight, her depressive symptoms include 
suicidal ideation with plan to OD on fluoxetine reported in 
initial intake form in ED (with psychiatry reporting "I don't 
really think that I'm going to do it"), feeling helpless and 
worthless, hypersomnia with intermittent insomnia, anhedonia, 
lack of motivation, fatigue, loss of appetite, and decreased 
concentration. Endorses symptoms of anxiety including rumination 
on schoolwork and arguments with friends that she can't get out 
of her head unless she distracts herself with TV/etc. Denies HI, 
memory changes, symptoms of mania, AVH, delusions, symptoms of 
panic, compulsion, and eating disorder. 

When asked to clarify whether she has thoughts of ending her 
life, she says "kind of" but did not endorse specific thoughts 
of overdosing. Collateral from ___ 
on-call clinician ___: Patient's friends came to 
meet with clinician at the ___ and said that the 
patient has been lying to them saying that her sister is dying 
of cancer, that her father is brain-dead and in a coma, and that 
she has thyroid cancer that has spread through her blood. She 
also reportedly showed her friends an incision which her friends 
wondered if it was self-inflicted. She made comments to friends 
about "not wanting to be here" and joked about killing herself.

When the patient herself was called in to see a clinician at the 
center today, she endorsed feeling sad, unmotivated, and 
homesick. She endorsed increasing suicidality over the past 2 
weeks with intermittent thoughts of overdosing on APAP or her 
antidepressant medication although denied active intent at her 
appointment. She revealed a history of cutting in high school 
with no reported cutting since HS.

On psychiatric review of systems, denied history of manic 
symptoms including decreased need for sleep, worsening 
impulsivity, elevated mood, pressured speech, grandiosity. 
Denied history of psychosis including AVH, paranoia, thought 
insertion/broadcasting, ideas of reference. Denied significant 
drug or alcohol use. 
 
Past Medical History:
Diagnoses: depression 
Hospitalizations: ___ for one-week in ___
Therapist: ___ ___
Psychiatrist: Dr. ___ ___
Medication and ECT trials: Fluoxetine started in ___ with
intermittent non-adherence 
Self-injury: Denies
Harm to others: Denies
Access to weapons: None

Past Medical History: denies 
 
Social History:
___
Family History:
Mother reportedly suffers from depression. No known suicide 
attempts in the family 

 
Physical Exam:
Psychiatry Resident Accept Note Exam:
VS:  T 98.7 BP 124 / 84 HR 111 RR 16 O2S 97
Gen: NAD, normal posture, well-nourished, appearance consistent
with age
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
CV: Regular rate, positive S1, S2, no gross 
murmurs/rubs/gallops.
Chest: Clear to ausculation bilaterally
Abdomen: Soft, non-tender, non-distended.
Ext: Warm and well-perfused, no edema. 
Skin: No observed abrasions, cuts, or bruises.

Discharge Condition:
97.7 119/82 67 16 99%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH 
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 
 
Pertinent Results:
___ 06:06PM   PLT COUNT-349
___ 06:06PM   NEUTS-80.2* LYMPHS-14.7* MONOS-4.4* EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-9.82* AbsLymp-1.80 AbsMono-0.54 
AbsEos-0.02* AbsBaso-0.03
___ 06:06PM   WBC-12.3* RBC-4.84 HGB-14.5 HCT-43.9 MCV-91 
MCH-30.0 MCHC-33.0 RDW-12.9 RDWSD-42.6
___ 06:06PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:06PM   estGFR-Using this
___ 06:06PM   GLUCOSE-92 UREA N-9 CREAT-0.7 SODIUM-142 
POTASSIUM-4.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-18
___ 01:23PM URINE  MUCOUS-RARE
___ 01:23PM URINE  RBC-3* WBC-12* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 01:23PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-8.0 
LEUK-MOD
___ 01:23PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:23PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:23PM URINE  UCG-NEGATIVE
___ 01:23PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
This is an ___ year old single woman, currently a freshman at 
___ with history of depression, anxiety, s/p 
one prior suicide attempt in ___ resulting hospitalization for 
1 week, history of self injurious behaviors who presented to 
___ with reported worsening of depressive symptoms in the 
setting of academic stressors, limited supports with thoughts of 
overdosing on fluoxetine. 

On admission interview, patient described worsening of 
depressive symptoms with difficulty with motivation, fatigue, 
decreased appetite and decreased abiltiy to concentrate with 
suicidal ideation as noted above. Denied intent or plan on my 
examination. Noted in the setting of feeling overwhelmed and 
"not getting the support I need," that she told her friends 
falsely that her sister was suffering from cancer, her father 
was terminally ill and that she was suffering from cancer; her 
friends notably learned these claims were not true and reported 
alienated her. Mental status on my examination notable for a 
well groomed woman with "okay" mood, superficially euthymic 
affect, thought process that is linear, goal and future 
oriented. 

Diagnostically, differential diagnosis at this time includes 
adjustment disorder vs. major depressive disorder +/- 
generalized anxiety disorder. Given what appears to be chronic 
maladaptive coping, difficulty with interpersonal relationships, 
apparent reactive mood, self injurious behaviors, I am also 
concerned for an emerging personality disorder. Of note, nothing 
in her history to suggest a history of mania that would be 
concerning for bipolar disorder, nor is there any evidence of 
psychosis or prodromal phase that would be concerning for a 
primary psychotic disorder. Patient denies significant substance 
use, and tox screen was negative; I do not believe substances 
are contributing to the presentation. 

#. Legal/Safety: Patient was admitted to ___ on a 
___, upon admission, she signed a CV, which was accepted. 
She maintained her safety throughout her hospitalization on 15 
minute checks and did not require physical or chemical 
restraints. 

#. Depression: as noted above 
- Patient was compliant in meeting with her treatment team, 
where she participated appropriately. 
- After discussion of the risks and benefits, we restarted 
fluoxetine 10 mg po qd with recommendation to continue titrating 
up as clinically indicated and as tolerated as an outpatient. 
Patient tolerated this well with no complaints of side effects. 
- Ms. ___ expressed a strong desire to be discharged as soon 
as possible with plan to return home to ___ with her 
parents, noting she felt a leave of absence and the support of 
her family would be helpful. Of note, she consistently denied 
suicidal ideation or thoughts of self harm throughout her 
hospitalization. A family meeting was held prior to discharge 
with the patient's mother and I spoke with her father on the 
phone. Both parents agreed to plan for patient to fly home to 
___ and follow up with outpatient providers. Of note, the 
parents confirmed there were no firearms in the household. 

Medial: no acute medical issues during this hospitalization 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 10 mg PO DAILY 
RX *fluoxetine 10 mg 1 capsule(s) by mouth daily Disp #*15 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD, recurrent, moderate, without psychotic features 

 
Discharge Condition:
97.7 119/82   67   16   99%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH 
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair  

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___